US08222248B2
4-Amino-2,6-dimethylbenzaldehyde (149 mg, 1.0 mmol)) was taken up in enough 42% HBF4 until the suspension stirred well and then was cooled to 0° C. To this was added a solution of NaNO2 (69 mg, 1.0 mmol) in water (0.5 mL) slowly. After 30 minutes at 0° C., MeOH (3 mL) was added and followed by Pd(OAc)2 (7.5 mg) and vinylphosphonic acid diethyl ester (197 mg, 1.2 mmol). The reaction mixture was heated at 80° C. for 30 min and the suspension was filtered through Celite, washed with CH2Cl2, and the filtrate was extracted with CH2Cl2. The organic layer was washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using heptane/EtOAc (4:1 then followed by 100% EtOAc) to give [(E)-2-(4-formyl-3,5-dimethylphenyl)-vinyl]-phosphonic acid diethyl ester as a colorless oil.

reactant | 4-Amino-2,6-dimethylbenzaldehyde | 1.0 mmol, 149 mg | NC1=CC(=C(C=O)C(=C1)C)C | C9H11NO
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | NaNO2 | 1.0 mmol, 69 mg | N(=O)[O-].[Na+]
reactant | vinylphosphonic acid diethyl ester | 1.2 mmol, 197 mg | C(C)OP(OCC)(=O)C=C | C6H13O3P
solvent | water | 0.5 mL | O | H2O
catalyst | Pd(OAc)2 | 7.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | MeOH | 3 mL | CO | CH4O
product | [(E)-2-(4-formyl-3,5-dimethylphenyl)-vinyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)\C=C\C1=CC(=C(C(=C1)C)C=O)C | C15H21O4P
